US08138175B2
A) (2,2-Dimethoxy-ethyl)-(3-piperidin-1-yl-propyl)-amine
To a solution of 1-piperidinepropylamine (3.00 g, 21.1 mmol) in MeOH (60 mL) were added dimethoxyacetaldehyde (45% solution in TBME, 6.5 mL, 25 mmol) magnesium sulfate (22.8 g, 190 mmol), AcOH (5.07 g, 84.4 mmol), and sodium cyanoborohydride (1.99 g, 31.6 mmol) at 0° C. The ice bath was removed, then after 18 h the reaction mixture was partitioned between sat. aq. sodium hyrogencarbonate solution and EtOAc. The organic layer was washed with brine, dried (MgSO4), and evaporated. Chromatography (SiO2; CH2Cl2/MeOH/25% aq. ammonia solution 90:10:0.25) afforded the title compound (2.08 mg, 43%). Colorless liquid, 231.2 (M+H)+.

reactant | 1-piperidinepropylamine | 21.1 mmol, 3.00 g | N1(CCCCC1)CCCN | C8H18N2
reactant | dimethoxyacetaldehyde | 25 mmol, 6.5 mL | COC(C=O)OC | C4H8O3
reactant | magnesium sulfate | 190 mmol, 22.8 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | AcOH | 84.4 mmol, 5.07 g | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 31.6 mmol, 1.99 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 60 mL | CO | CH4O
product | (2,2-Dimethoxy-ethyl)-(3-piperidin-1-yl-propyl)-amine | 2.08 mg, 43% | COC(CNCCCN1CCCCC1)OC | C12H26N2O2
